US08022075B2
N-(4-Bromophenyl)thiourea (33)
4-Bromophenylisothiocyanate (21.4 g) was dissolved in tetrahydrofuran (50 mL), and concentrated aqueous ammonia (28%) (13.7 mL) was added dropwise to the solution, followed by stirring at room temperature for 10 minutes. The solvent was concentrated under reduced pressure, and the crystals were recovered through filtration by use of water, followed by recrystallization from ethanol, to thereby yield the title compound (16.4 g).

reactant | 4-Bromophenylisothiocyanate | 21.4 g | BrC1=CC=C(C=C1)N=C=S | C7H4BrNS
reactant | ammonia | 13.7 mL | N | H3N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | N-(4-Bromophenyl)thiourea | 16.4 g | BrC1=CC=C(C=C1)NC(=S)N | C7H7BrN2S
